US07723336B2
3,6-dichloro-4-phenylpyridazine (J. Med. Chem. 2005, 48, 7089; 5.93 g, 26.3 mmol) was divided into 6 microwave tubes, and concentrated NH4OH (7 mL) was added to each. After sealing, each was heated at 140° C. for 1 h. The microwave tubes were uncapped, the precipitates were filtered and washed with cold water. The precipitates from all reactions were combined, and Et2O (150 mL) was added. After stirring overnight, the remaining solid was filtered, rinsed with Et2O and dried to give 6-chloro-5-phenylpyridazin-3-amine (3.06 g, 56%)

reactant | 3,6-dichloro-4-phenylpyridazine | 26.3 mmol, 5.93 g | ClC=1N=NC(=CC1C1=CC=CC=C1)Cl | C10H6Cl2N2
reactant | NH4OH | 7 mL | [NH4+].[OH-]
product | 6-chloro-5-phenylpyridazin-3-amine | 3.06 g, 56% | ClC1=C(C=C(N=N1)N)C1=CC=CC=C1 | C10H8ClN3
